US06399656B1
Preparation of N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-5-(1-pyrrolyl)-3-pyridinecarboxamide;
N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-pyridinyl)benzamide; N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-thiazolyl)benzamide; N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-6-phenyl-3-pyridinecarboxamide; and N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(4-pyridinyl)benzamide

reactant | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-pyridinyl)benzamide | CC(C)N(CCOC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)C(C)C | C27H33N3O3
reactant | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-thiazolyl)benzamide | CC(C)N(CCOC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)C=1SC=CN1)=O)C(C)C | C25H31N3O3S
reactant | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-6-phenyl-3-pyridinecarboxamide | CC(C)N(CCOC=1C=C(C=CC1OC)NC(=O)C=1C=NC(=CC1)C1=CC=CC=C1)C(C)C | C27H33N3O3
reactant | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(4-pyridinyl)benzamide | CC(C)N(CCOC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)C1=CC=NC=C1)=O)C(C)C | C27H33N3O3
product | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-5-(1-pyrrolyl)-3-pyridinecarboxamide | CC(C)N(CCOC=1C=C(C=CC1OC)NC(=O)C=1C=NC=C(C1)N1C=CC=C1)C(C)C | C25H32N4O3
